US06054588
Analogously to Example 7a,b, after reacting 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone with isopropyl bromide there was obtained 2-[2-(2,4-dichloro-phenyl)-2-isopropoxy-vinyl]-2H-tetrazole as a colourless oil. [M]+ =299.

reactant | 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=N1)=O | C9H6Cl2N4O
reactant | isopropyl bromide | C(C)(C)Br | C3H7Br
product | 2-[2-(2,4-dichloro-phenyl)-2-isopropoxy-vinyl]-2H-tetrazole | ClC1=C(C=CC(=C1)Cl)C(=CN1N=CN=N1)OC(C)C | C12H12Cl2N4O
